US09169259B2
A suspension of 6-fluoropyridin-2-amine (1.12 g, 10 mmol) and (S)-2-methylpyrrolidine (1.03 g, 12 mmol) in water (1 mL) was heated to 205° C. in a microwave oven for 30 minutes. The reaction mixture was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=5:1) to give (S)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine (1.5 g, 83%) as a colorless oil. LC-MS: [M+H]+, 178.2, tR=1.066 min.

reactant | 6-fluoropyridin-2-amine | 10 mmol, 1.12 g | FC1=CC=CC(=N1)N | C5H5FN2
reactant | (S)-2-methylpyrrolidine | 12 mmol, 1.03 g | C[C@@H]1NCCC1 | C5H11N
solvent | water | 1 mL | O | H2O
product | (S)-6-(2-methylpyrrolidin-1-yl)pyridin-2-amine | 1.5 g, 83% | C[C@@H]1N(CCC1)C1=CC=CC(=N1)N | C10H15N3
